US04422982
The process in the third step of the process of the invention comprises reacting diethyl-N-(formyl)aminomethylphosphonate with methylchloroacetate in the presence of a proton-extracting base and a suitable solvent to produce N-(diethylphosphonomethyl)-N-(formyl)glycine methyl ester.

reactant | diethyl-N-(formyl)aminomethylphosphonate | C(C)OP(OCC)(=O)CNC=O | C6H14NO4P
reactant | methylchloroacetate | COC(CCl)=O | C3H5ClO2
product | N-(diethylphosphonomethyl)-N-(formyl)glycine methyl ester | COC(CN(C=O)CP(=O)(OCC)OCC)=O | C9H18NO6P
